US06492383B1
[6-(4-Chloro-phenyl)-thieno[3,2-d]pyrimidin-4-yl]-(1H-indol-5-yl)-amine
The title compound was prepared from p-chlorobenzeneboronic acid and (6-bromo-thieno[3,2-d]pyrimidin-4-yl)-(1H-indol-5-yl)-amine by a procedure analogous to example 2. 1H NMR (400 MHz, DMSO) d 11.4 (s, 1H), 8.86 (s, 1H), 7.58 (m, 9H), 7.21 (d, 1H), 6.50 (s, 1H). M.P. 190-210° C.; LC-MS: 377 (MH+); HPLC RT: 5.32 minutes.

reactant | p-chlorobenzeneboronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | (6-bromo-thieno[3,2-d]pyrimidin-4-yl)-(1H-indol-5-yl)-amine | BrC1=CC=2N=CN=C(C2S1)NC=1C=C2C=CNC2=CC1 | C14H9BrN4S
product | [6-(4-Chloro-phenyl)-thieno[3,2-d]pyrimidin-4-yl]-(1H-indol-5-yl)-amine | ClC1=CC=C(C=C1)C1=CC=2N=CN=C(C2S1)NC=1C=C2C=CNC2=CC1 | C20H13ClN4S
